US07655666B2
1,3-Dimethyl-1H-pyrazole+1,5-Dimethyl-1H-pyrazole (Butler, D. E.; Alexander, S. M. J. Org. Chem. 1972, 37(2), 215-220)
Methylhydrazine (4.25 mL, 80 mmol) was added to 4,4-dimethoxy-2-butanone (10.63 mL, 80 mmol) with keeping the temperature below 25° C. and the mixture was stirred at r.t. for 16 h. The mixture was poured in aq HCl (6N, 16 mL, 1.2 equiv) with stirring. The MeOH was removed in vacuo and then 50% aqueous NaOH was added until the pH was basic. The mixture was extracted with diethyl ether (3 times). The organic phases were combined, dried (Na2SO4) and concentrated in vacuo to afford a mixture of 1,3-dimethyl-1H-pyrazole and 1,5-dimethyl-1H-pyrazole (4:1 NMR ratio) (7.32 g, 95%) as a yellow syrup which was used in the next step without further purification.

reactant | Methylhydrazine | 80 mmol, 4.25 mL | CNN | CH6N2
reactant | 4,4-dimethoxy-2-butanone | 80 mmol, 10.63 mL | COC(CC(C)=O)OC | C6H12O3
reactant | HCl | 6N, 16 mL, 1.2 equiv | Cl | ClH
reactant | 1,3-dimethyl-1H-pyrazole | CN1N=C(C=C1)C | C5H8N2
reactant | 1,5-dimethyl-1H-pyrazole | 7.32 g | CN1N=CC=C1C | C5H8N2
product | 1,3-Dimethyl-1H-pyrazole 1,5-Dimethyl-1H-pyrazole | CN1N=C(C=C1)C.CN1N=CC=C1C | 2C5H8N2
